US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-dimethylaminobenzaldehyde (1.5 g) and 3,4-dimethylaniline (1.2 g) as starting materials, [(4-dimethylaminophenyl)methyl](3,4-dimethylphenyl)amine (1.4 g) was obtained. melting point: 73–75° C.

reactant | 4-dimethylaminobenzaldehyde | 1.5 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 3,4-dimethylaniline | 1.2 g | CC=1C=C(N)C=CC1C | C8H11N
product | [(4-dimethylaminophenyl)methyl](3,4-dimethylphenyl)amine | 1.4 g | CN(C1=CC=C(C=C1)CNC1=CC(=C(C=C1)C)C)C | C17H22N2
